Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
mechanical fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w COPD, HTN, hx of prior falls, who presents from ___ as
transfer for trauma evaluation after mechanical fall from
standing found to have multiple R sided rib fractures. Patient
reports she was walking up an embankment earlier this afternoon
in a parking garage with her friend when she tripped and fell
from standing position onto cement, striking the R side of her
face and chest. 

 
Past Medical History:
Past Medical History:COPD, HLD, osteopenia, previous falls

Past Surgical History: R hip surgery, R shoulder surgery

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam:
Vitals: 96.8 90 144/88 15 93% RA 
GEN: alert and oriented x 3, GCS15, no acute distress
HEENT: No scleral icterus, mucus membranes moist. R facial
ecchymosis. Small laceration s/p suture repair lateral to the R
eye. PERRL
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R. No chest wall
crepitus. TTP R anterolateral chest wall.
ABD: Soft, nondistended, nontender, no rebound or guarding,
Spine: no cervical, thoracic, or lumbar spinal tenderness. No
stepoffs. 
Ext: No ___ edema, ___ warm and well perfused. Bilateral anterior
mid tibial tenderness.
 
Pertinent Results:
Laboratory:
___ 01:39AM BLOOD WBC: 8.5 RBC: 4.46 Hgb: 11.7 Hct: 38.5
MCV: 86 MCH: 26.2 MCHC: 30.4* RDW: 14.9 RDWSD: 47.4* Plt Ct: 252 

___ 01:39AM BLOOD Neuts: 72.5* Lymphs: 18.3* Monos: 5.9 
Eos:
2.4 Baso: 0.4 Im ___: 0.5 AbsNeut: 6.14* AbsLymp: 1.55 AbsMono:
0.50 AbsEos: 0.20 AbsBaso: 0.03 
___ 01:39AM BLOOD Plt Ct: 252 
___ 01:39AM BLOOD ___: 14.0* PTT: 30.2 ___: 1.3* 
___ 01:39AM BLOOD Glucose: 93 UreaN: 18 Creat: 0.6 Na: 137
K: 4.2 Cl: 103 HCO3: 24 AnGap: 10 

Imaging:
Outside imaging reviewed with radiology, significant for:
CT head negative
CT c spine negative
CXR: R ___hest/Abdomen/Pelvis

IMPRESSION:
 
 
1. Acute fractures of the right lateral fifth and sixth ribs.
Chronic rib
fractures of the third and fourth ribs on the right and eighth,
ninth, and
tenth ribs on the left. No additional acute fracture.
2. No acute intrathoracic, intra-abdominal, or intrapelvic
sequela of trauma.
3. 8 mm ground-glass opacity in the right upper lobe may
represent a small
area of inflammation. However, follow-up CT in ___ months is
recommended.
4. Prominent mediastinal and hilar lymph nodes are of unknown
etiology.
Prominence of the interstitium at the lung apices suggests fluid
overload.
5. Mild intrahepatic biliary dilation as well as dilation of the
common bile
duct to 1.6 cm, of unknown etiology. Cholelithiasis without
distension or
wall thickening of the gallbladder.
6. Incidentally noted 1.8 cm left and 1.5 cm right adrenal
nodules are
incompletely characterized. Recommend MRI of the adrenals or
dedicated CT of
the adrenal glands, if clinically relevant.

Bilateral tibia/fibula films:
IMPRESSION:    
No fracture in either tibia or fibula. 

 
Brief Hospital Course:
___ status post mechanical fall found to have acute right ___ 
rib fractures. The patient is hemodynamically stable with good 
oxygen saturations.  She was admitted to the Trauma service for 
pain control, IS, ___. Was also noted to have a positive urine 
culture and was started on ceftriaxone for 3 days. Incidental 
findings on CT included  8 mm ground-glass opacity in the right 
upper lobe, and 1.8 cm left and 1.5 cm right adrenal nodules. 

Pain was well controlled. The patient voided without problem. 
During this hospitalization, the patient was evaluated by 
Physical Therapy. They cleared her for home with home ___. She 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. She was using her incentive spirometer and was 
oxygenating well on room air.  The patient was discharged home 
with services. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Symbicort (budesonide-formoterol) Other  inhalation Other 
3. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*14 Packet Refills:*0 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*5 Tablet Refills:*0 
4.  Symbicort (budesonide-formoterol) 1 Dose inhalation Q4H  
5.  Aspirin 81 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right rib ___ fractures
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a traumatic fall and you 
were found to have rib fractures. You were also diagnosed with a 
urinary tract infection during this admission for which you 
received antibiotics. Please see the following instructions:
-Rib fractures can cause severe pain and subsequently cause you 
to take shallow breaths because of the pain. 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician. 
* Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs. 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing. 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain. 
Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible. 
* Do NOT smoke * If your doctor allows, non-steroidal 
___ drugs are very effective in controlling pain ( 
ie, Ibuprofen, Motrin, Advil, Aleve, Naprosyn) but they have 
their own set of side effects so make sure your doctor approves. 

* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Followup Instructions:
___